US07544812B2
A solution of (2,5-dioxo-imidazolidin-4-yl)-acetic acid methyl ester (6.48 g, 37.6 mmol) in DMF (250 mL) is treated with 2-(bromomethyl)-napthalene (9.15 g, 41.4 mmol), MgSO4 (4.53 g, 37.6 mmol) and then K2CO3 (15.61 g, 0.113 mol) at 0° C. The resultant mixture is warmed to room temperature and stirred under N2 for 16 hours. The reaction mixture is filtered, and then aqueous 1N HCl (300 mL) is added to the filtrate. The filtrate is extracted with Et2O and the organic layer dried. The solvent is removed to give a crude oil which is purified by flash chromatography using 2:1 hexanes:acetone to afford 6.27 g of (1-naphthalen-2-ylmethyl-2,5-dioxo-imidazolidin-4-yl)-acetic acid methyl ester (53%). Rf=0.32 (1:1 hexanes:acetone). 1H NMR.

reactant | (2,5-dioxo-imidazolidin-4-yl)-acetic acid methyl ester | 37.6 mmol, 6.48 g | COC(CC1NC(NC1=O)=O)=O | C6H8N2O4
reactant | 2-(bromomethyl)-napthalene | 41.4 mmol, 9.15 g | BrCC1=CC2=CC=CC=C2C=C1 | C11H9Br
reactant | MgSO4 | 37.6 mmol, 4.53 g | [O-]S(=O)(=O)[O-].[Mg+2]
reactant | K2CO3 | 0.113 mol, 15.61 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 250 mL | CN(C)C=O | C3H7NO
product | (1-naphthalen-2-ylmethyl-2,5-dioxo-imidazolidin-4-yl)-acetic acid methyl ester | 6.27 g, 53% | COC(CC1NC(N(C1=O)CC1=CC2=CC=CC=C2C=C1)=O)=O | C17H16N2O4
